US06114358
5-Aminomethyl-3,4-dimethylthiophene-2-carboxamide Hydrochloride
19 g (105.42 mmol) of 5-cyano-3,4-dimethylthiophene-2-carboxamide were suspended in 760 ml of methanol and 110 ml of 2N hydrochloric acid solution and, after addition of 9.5 g of Pd on carbon (10%), hydrogenated at room temperature. After uptake of 4.7 l of hydrogen (4 h), methanol was distilled out under reduced pressure, and the aqueous phase was extracted three times with ethyl acetate and then freeze-dried. 16.3 g of the required product were obtained as a white solid (70.4% of theory).

reactant | 5-cyano-3,4-dimethylthiophene-2-carboxamide | 105.42 mmol, 19 g | C(#N)C1=C(C(=C(S1)C(=O)N)C)C | C8H8N2OS
reactant | hydrochloric acid | 2N, 110 ml | Cl | ClH
solvent | methanol | 760 ml | CO | CH4O
catalyst | Pd on carbon | 9.5 g | [Pd] | Pd
product | 5-Aminomethyl-3,4-dimethylthiophene-2-carboxamide Hydrochloride | 16.3 g | Cl.NCC1=C(C(=C(S1)C(=O)N)C)C | InChI=1S/C8H12N2OS.ClH/c1-4-5(2)7(8(10)11)12-6(4)3-9;/h3,9H2,1-2H3,(H2,10,11);1H
